US08168821B2
Methyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate
At 0° C., 4.11 ml (10.26 mmol) of a 2.5 M solution of n-butyllithium in hexane are added slowly to a solution of 2.471 g (5.5 mmol) of (2-hydroxybenzyl)triphenylphosphonium bromide in 25 ml of anhydrous THF, and the mixture is stirred for 45 min. At this temperature, 1.27 g (3.67 mmol) of methyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-formylbutyl}benzoate are then metered in slowly, and the mixture is stirred at 0° C. for two hours. After complete conversion, saturated ammonium chloride solution is added, and the reaction solution is concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is evaporated to dryness. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 757 mg (47% of theory) of a yellowish oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 5.5 mmol, 2.471 g | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | methyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-formylbutyl}benzoate | 3.67 mmol, 1.27 g | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC)C=C1)C=O)=O | C20H26O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Methyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O)=O | C27H32O5
